US03940421
Following the procedure similar to that described in Example 1B hereinabove, methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate is reacted with 5-methylresorcinol to give 1,2-dihydro-9-hydroxy-7-methyl-4-oxo-4H-thieno[2,3-c][1]benzopyran.

reactant | methyl 3-oxo-2,3,4,5-tetrahydrothiophene-2-carboxylate | O=C1C(SCC1)C(=O)OC | C6H8O3S
reactant | 5-methylresorcinol | CC=1C=C(C=C(O)C1)O | C7H8O2
product | 1,2-dihydro-9-hydroxy-7-methyl-4-oxo-4H-thieno[2,3-c][1]benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)SCC1)C | C12H10O3S
